US08623889B2
1-ethyl-3-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)urea
A mixture of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (51.3 mg, 203 μmol) and ethyl isocyanate (20 uL, 0.26 mmol) in dichloromethane (2.0 mL) was heated at 40° C. for 4 days. The cooled mixture was treated with pyridine (20 uL, 0.25 mmol) and a further portion of ethyl isocyanate (20 uL, 0.26 mmol) at 40° C. for 24 h and concentrated in vacuo, and the residue purified by reverse phase HPLC (gradient of acetonitrile in water with 0.1% formic acid) to yield the title compound as a white amorphous solid (54.6 mg, 83%). 1H NMR (400 MHz, DMSO) δ 9.07 (s, 2H), 8.09 (s, 1H), 7.97 (s, 1H), 7.84 (d, J=8.5 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.37 (t, J=7.2 Hz, 1H), 7.20-7.12 (m, 2H), 7.06-7.00 (s, 1H), 3.19 (dq, J=7, 7 Hz, 2H), 2.25 (s, 3H), 1.10 (t, J=7.2 Hz, 3H). LCMS (Method E): RT=4.885 min, M+H+=324.1.

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 203 μmol, 51.3 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | ethyl isocyanate | 0.26 mmol, 20 uL | C(C)N=C=O | C3H5NO
reactant | pyridine | 0.25 mmol, 20 uL | N1=CC=CC=C1 | C5H5N
reactant | ethyl isocyanate | 0.26 mmol, 20 uL | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 1-ethyl-3-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)urea | C(C)NC(=O)NC=1N=CC2=CC(=CC=C2C1)C1=C(C=CC(=C1)F)C | C19H18FN3O
